US05110820
In 45 ml of methanol were dissolved 2.51 g of 6-aminohexyl methyl 2,6-dimethyl-4-(m-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate and 0.83 g of glycidyl phenyl ether, and the mixture was stirred for 45 hours at room temperature. The reaction solution was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography. The produce was eluted with chloroform-methanol (95:5 v/v), and 1.10 g of 6-(2-hydroxy-3-phenoxypropylamino)hexyl methyl 2,6-dimethyl-4-(m-trifluoromethylphenyl)-1,4-dihydropyridin-3,5-dicarboxylate was obtained. This product was treated with an ethanol solution of hydrogen chloride to obtain amorphous powder of 1.16 g of hydrochloric acid salt.

reactant | 6-aminohexyl methyl 2,6-dimethyl-4-(m-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 2.51 g | CC=1NC(=C(C(C1C(=O)OCCCCCCN)C1=CC(=CC=C1)C(F)(F)F)C(=O)OC)C | C23H29F3N2O4
reactant | glycidyl phenyl ether | 0.83 g | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
solvent | methanol | 45 ml | CO | CH4O
product | 6-(2-hydroxy-3-phenoxypropylamino)hexyl methyl 2,6-dimethyl-4-(m-trifluoromethylphenyl)-1,4-dihydropyridin-3,5-dicarboxylate | 1.10 g | CC=1NC(=C(C(C1C(=O)OCCCCCCNCC(COC1=CC=CC=C1)O)C1=CC(=CC=C1)C(F)(F)F)C(=O)OC)C | C32H39F3N2O6
